US06573293B2
To a solution of 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (250 mg, 1.63 mmol) in dimethylformamide (3 mL) was added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (376 mg, 1.2 equiv.), 1-hydroxybenzotriazole (265 mg, 1.2 equiv.), triethylamine (0.45 mL, 2 equiv.) and 1-(2-aminoethyl)pyrrolidine (0.23 mL. 1.1 equiv.). After stirring at room temperature overnight, the reaction was diluted with saturated sodium bicarbonate and brine (with extra salt) and extracted with 10% methanol in dichloromethane. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated to give 130 mg of 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide.

reactant | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid | 1.63 mmol, 250 mg | C(=O)C=1NC(=CC1C(=O)O)C | C7H7NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 376 mg, 1.2 equiv. | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 265 mg, 1.2 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.45 mL, 2 equiv. | C(C)N(CC)CC | C6H15N
reactant | 1-(2-aminoethyl)pyrrolidine | 0.23 mL, 1.1 equiv. | NCCN1CCCC1 | C6H14N2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | brine | [Cl-].[Na+].O
product | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | 130 mg | N1(CCCC1)CCNC(=O)C1=C(NC(=C1)C)C=O | C13H19N3O2
